US04024262
A solution of 29.0 g. (0.105 mole) of 3-ethyl-5-(β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide and 500 ml. acetic acid at room temperature is treated dropwise rapidly with 12.5 g. (0.125 mole) of chromium trioxide in 125 ml. water. The resulting solution is stirred for 2 hours at room temperature and a portion of the acetic acid is removed in vacuo. The remainder is poured onto ice water and extracted with methylene chloride. The methylene chloride layer is washed with 2N sodium hydroxide, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The solid residue is triturated with ether and recrystallized from ethanol to give 3-ethyl-N-methyl-5-phenacyl-4-isoxazole carboxamide, m.p. 134° to 136° C.

reactant | 3-ethyl-5-(β-hydroxyphenethyl)-N-methyl-isoxazole-4-carboxamide | 0.105 mole | C(C)C1=NOC(=C1C(=O)NC)CC(C1=CC=CC=C1)O | C15H18N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.125 mole | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | O | H2O
product | 3-ethyl-N-methyl-5-phenacyl-4-isoxazole carboxamide | C(C)C1=NOC(=C1C(=O)NC)CC(=O)C1=CC=CC=C1 | C15H16N2O3
